US06316444B1
Step B: 2-Hydroxymethyl-4-fluorenyloxycarbonyl-morpholine
To a solution of 3.56 g of methyl 4-fluorenyloxycarbonyl-morpholine-2-carboxylate in 25 mL of THF was added 0.58 g of lithium chloride, 0.52 g of sodium borohydride, and 25 mL of ethanol. The mixture was stirred overnight at room temperature, concentrated, and redissolved in 200 mL of CH2Cl2. This CH2Cl2 solution was washed with 2×100 mL of water and 100 mL of brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with 1:1 hexanes-EtOAc, to yield 2.34 of the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3): δ7.77 (d, J=7.6 Hz, 2H), 7.56 (d, J=7.3 Hz, 2H), 7.40 (t, J=7.6 Hz, 2H), 7.32 (t, J=7.3 Hz, 2H), 4.49 (br s, 2H), 4.24 (t, J=6.4 Hz, 1H), 3.24-4.03 (m, 7H), 2.97 (br s, 1H), 2.80 (br t, J=11.7 Hz, 1H).

reactant | methyl 4-fluorenyloxycarbonyl-morpholine-2-carboxylate | 3.56 g | C1(=CC=CC=2C3=CC=CC=C3CC12)OC(=O)N1CC(OCC1)C(=O)OC | C20H19NO5
reactant | lithium chloride | 0.58 g | [Cl-].[Li+]
reactant | sodium borohydride | 0.52 g | [BH4-].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-4-fluorenyloxycarbonyl-morpholine | OCC1CN(CCO1)C(=O)OC1=CC=CC=2C3=CC=CC=C3CC12 | C19H19NO4
